* C:\Users\chris\OneDrive\Desktop\Classes\3rd Year 2nd Semester\E Design 344\GitRepo\E344\LTSpice\A6\A6b\E344_23648074_A6b.asc
V1 N001 0 PWL file=PowerSupplyPWL.csv
RSenseBattery BatteryTerminal N007 1m
RSenseSupply VSupply N001 1m
C1 N006 0 10m IC=6
V2 ChargeOn 0 PWL file=ChargeOnPWL.csv
XU1 N010 N003 N002 LT317A
XM1 N005 N009 N004 irf9z24n irf9z24n
M2 N009 ChargeOn 0 0 2N7002
D1 VSupply N002 1N5819
D2 N005 BatteryTerminal 1N5819
S1 P001 N007 N008 0 MYSW
V3 N008 0 PWL file=SwitchPWL.csv
S2 N006 N007 0 N008 MYSW2
V4 P001 0 6
C2 N002 0 0.1µ
R4 N010 0 500
R1 N004 N003 0.39
R2 N004 N010 100
R3 N004 N009 1000
R5 ChargeOn 0 250
.model D D
.lib C:\Users\chris\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\chris\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {transtop} 0 {timestep}
.include A6_cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only VSupply for power\n  * Use ChargeOn to control charging\n  * Use BatteryTerminal as your battery's \n          positive terminal
* Config file:
* Analysis setup:
* Battery
* Power\nsupply
* =============================\nREPLACE WITH YOUR DETAILS\nCC Kruger 23648074\n=============================
.inc irf9z24n.lib
.model MYSW SW(Ron=0.1m Vt=.5 Vh=0)
.model MYSW2 SW(Ron=0.1m Vt=-.5 Vh=0)
* ChargeOn is the digital signal used \nfor driving your high-side switching circuit.
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LTC.lib
.backanno
.end
